US04192669
To a mixture of 10.01 g. of 4-(benzyloxy)phenol and 3.51 g. (0.05 mole) of potassium methoxide in 75 ml. of DMF is added 12.08 g. (0.05 mole) of 4-(trifluoromethoxy)-2-nitro-1-chlorobenzene. The mixture is heated to complete the reaction. Most of the solvent is removed at reduced pressure and the residue treated with methylene chloride and water. The methylene chloride solution is washed with saturated brine, dried, and the solvent removed, leaving 4-[4-(trifluoromethoxy)-2-nitrophenoxy]-phenyl benzyl ether.

reactant | 4-(benzyloxy)phenol | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O | C13H12O2
reactant | potassium methoxide | 0.05 mole | C[O-].[K+]
reactant | 4-(trifluoromethoxy)-2-nitro-1-chlorobenzene | 0.05 mole | FC(OC1=CC(=C(C=C1)Cl)[N+](=O)[O-])(F)F | C7H3ClF3NO3
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-[4-(trifluoromethoxy)-2-nitrophenoxy]-phenyl benzyl ether | C(C1=CC=CC=C1)OC1=CC=C(C=C1)OC1=C(C=C(C=C1)OC(F)(F)F)[N+](=O)[O-] | C20H14F3NO5
